US06605629B1
A mixture of ethyl 5-bromo-5-(4-chlorobenzoyl)valerate (17.4 g), thiourea (4.57 g) and ethanol (50 ml) was stirred with heating under reflux for 2 hours. The reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (200 ml×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethanol to give ethyl 2-amino-4-(4-chlorophenyl)-5-thiazolebutanoate (14.6 g, 85%) as pale yellow prisms. Melting point 114-115° C.

reactant | ethyl 5-bromo-5-(4-chlorobenzoyl)valerate | 17.4 g | BrC(CCCC(=O)OCC)C(C1=CC=C(C=C1)Cl)=O | C14H16BrClO3
reactant | thiourea | 4.57 g | NC(=S)N | CH4N2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | ethyl 2-amino-4-(4-chlorophenyl)-5-thiazolebutanoate | 14.6 g, 85% | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CCCC(=O)OCC | C15H17ClN2O2S
